US07365095B2
A solution of (8-bromo-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate, prepared in Example 37, step 5 (1.0 g, 2.42 mmol) and 2-chlorophenylboronic acid (1.14 g, 7.26 mmol) in dioxane (18 mL) was added a solution of potassium carbonate (1.0 g, 7.26 mmol) in water (6 mL) and the mixture purged with nitrogen for 20 minutes. Trans-dichlorobis(tri-o-tolylphosphine)palladium (II) (95 mg, 0.12 mmol) was added and the reaction mixture heated at 100° C. for 2 hours. The cooled reaction mixture was then partitioned between ethyl acetate (100 mL) and 2.0 M aqueous sodium hydroxide (100 mL). The organic layer was separated, washed with water (100 mL) and saturated brine (100 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. Purification by flash chromatography using a solvent gradient of 5 to 20% ethyl acetate in hexane gave 0.57 g (53%) of [8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate as a white solid. HRMS: calcd for C23H18ClFO4S+NH4+, 462.09366. found (ESI, [M+NH4]+), 462.0916.

reactant | (8-bromo-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2C=C1)F)Br | C17H14BrFO4S
reactant | 2-chlorophenylboronic acid | 7.26 mmol, 1.14 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 7.26 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 6 mL | O | H2O
catalyst | Trans-dichlorobis(tri-o-tolylphosphine)palladium (II) | 0.12 mmol, 95 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.Cl[Pd]Cl
product | [8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.57 g, 53% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2C=C1)F)C1=C(C=CC=C1)Cl | C23H18ClFO4S
